US09023851B2
8-(1,3-thiazol-5-yl)-N-[3-(trifluoromethyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyrazin-2-amine (“C2”)
8-Chloro-N-[3-(trifluoromethyl)phenyl][1,2,4]triazolo[1,5-a]pyrazin-2-amine (100 mg, 0.319 mmol), 2-thiazolyl zinc bromide (0.5 M in THF, 5 mL, 0.478 mmol), sodium carbonate (2M) (0.24 mL, 0.5 mmol) and tetrakis(triphenyl phosphine) palladium (11 mg, 0.05 mmol) are dissolved and degassed in a mixture of toluene:ethanol (1:1, 4 mL). The reaction mixture is heated 4 hours at 90° C. in a sealed tube. When the reaction is completed, the reaction mixture is cooled down to rt and filtrated through a celite pad and washed with ethyl acetate (10 mL). The filtrate is concentrated and purified by flash chromatography on a silica gel column using (60-120) mesh to get the product as a yellow solid (6.6 mg, 6%); LCMS (method A): mass found (M+H+, 363), Rt (min): 4.50 area % 95.5 (max), 93.5 (254 nm).

reactant | 8-Chloro-N-[3-(trifluoromethyl)phenyl][1,2,4]triazolo[1,5-a]pyrazin-2-amine | 0.319 mmol, 100 mg | ClC=1C=2N(C=CN1)N=C(N2)NC2=CC(=CC=C2)C(F)(F)F | C12H7ClF3N5
reactant | 2-thiazolyl zinc bromide | 0.478 mmol, 0.5 M, 5 mL | [Br-].S1C(=NC=C1)[Zn+]
reactant | sodium carbonate | 0.5 mmol, 2M, 0.24 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenyl phosphine) palladium | 0.05 mmol, 11 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 8-(1,3-thiazol-5-yl)-N-[3-(trifluoromethyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyrazin-2-amine | 6.6 mg, 6% | S1C=NC=C1C=1C=2N(C=CN1)N=C(N2)NC2=CC(=CC=C2)C(F)(F)F | C15H9F3N6S
